US04973738
Methyl-4.-hydroxybiphenyl is reacted with benzyl bromide to obtain 4'-benzyloxybiphenyl-4-carboxylate, which is converted through hydrolysis to 4'-benzyloxybiphenyl-4-carboxylate, which is then reacted with thionyl chloride to obtain 4'-benzyloxybiphenyl-4-carboxylic acid chloride. The chloride is reacted with optically active 1-trifluoro-2-octanol 1-trifluoromethylheptyl-4'-benzyloxybiphenyl-4-carboxylate, which is subjected to catalytical hydrogenolysis to obtain 1-trifluoroheptyl-4'-hydroxybiphenyl-4-carboxylate (III).

reactant | 4'-benzyloxybiphenyl-4-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[O-]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4'-benzyloxybiphenyl-4-carboxylic acid chloride | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C20H15ClO2
